US09085555B2
A. 1-Acetyl-1H-indole-3-carboxylic acid benzyl ester
To a solution of 1H-indole-3-carboxylic acid benzyl ester (600 mg, 2.39 mmol) in THF (10 mL) at 0° C. under nitrogen was added NaH (60% in mineral oil, 191 mg, 4.78 mmol). The mixture was stirred for 20 min at 0° C., acetyl chloride (339 μl, 4.78 mmol) was added and the resulting suspension was stirred at RT for 48 h. The solvent was concentrated and the residue poured in water and extracted twice with CH2Cl2. The Combined organic layers were dried over Na2SO4, filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane to c-hexane/EtOAc 75:25) to give the desired product as a white solid. TLC, Rf (c-hexane/EtOAc 3:1)=0.38; MS (LC-MS): 294.1 [M+H]+, 316.0 [M+Na]+; tR (HPLC conditions a): 4.69 min.

reactant | 1H-indole-3-carboxylic acid benzyl ester | 2.39 mmol, 600 mg | C(C1=CC=CC=C1)OC(=O)C1=CNC2=CC=CC=C12 | C16H13NO2
reactant | NaH | 4.78 mmol, 191 mg | [H-].[Na+]
reactant | acetyl chloride | 4.78 mmol, 339 μl | C(C)(=O)Cl | C2H3ClO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-Acetyl-1H-indole-3-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1=CN(C2=CC=CC=C12)C(C)=O | C18H15NO3
